US07034039B2
To a solution of methyl 3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-4-(4-methylphenyl)-1-oxo-1,2-dihydro-6-isoquinolinecarboxylate (1.91 g, 4 mmol) in tetrahydrofuran (10 ml)-methanol (10 ml) was added 1N sodium hydroxide (8 ml) and the mixture was stirred at room temperature for 1 h. The reaction mixture was poured into water, acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained crystals were recrystallized from tetrahydrofuran-isopropyl ether to give 3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-4-(4-methylphenyl)-1-oxo-1,2-dihydro-6-isoquinolinecarboxylic acid (1.67 g, 90.3%) as crystals.

reactant | methyl 3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-4-(4-methylphenyl)-1-oxo-1,2-dihydro-6-isoquinolinecarboxylate | 4 mmol, 1.91 g | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)C)C(=O)OC)=O)CC(C)C | C28H34N2O5
reactant | methanol | 10 ml | CO | CH4O
reactant | sodium hydroxide | 1N, 8 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-4-(4-methylphenyl)-1-oxo-1,2-dihydro-6-isoquinolinecarboxylic acid | 1.67 g, 90.3% | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)C)C(=O)O)=O)CC(C)C | C27H32N2O5
